US08314138B2
A mixture of 2-{1-[2-(4-fluoro-phenyl)-ethyl]-5-methyl-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid ethyl ester (0.32 g, 0.86 mmol), NaOH (0.17 g, 4.29 mmol) in tetrahydrofuran (5 mL) and water (5 mL) was heated to reflux for 16 hr. The solvent was removed in vacuo and the residue was neutralized with 5% HCl to pH 5-6. The resulting solid was filtered and dried to provide 2-{1-[2-(4-fluoro-phenyl)-ethyl]-5-methyl-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid as a white solid (0.21 g, 70% yield). This material was used without further purification.

reactant | 2-{1-[2-(4-fluoro-phenyl)-ethyl]-5-methyl-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid ethyl ester | 0.86 mmol, 0.32 g | C(C)OC(=O)C1=C(N=C(S1)C1=NN(C(=C1)C)CCC1=CC=C(C=C1)F)C | C19H20FN3O2S
reactant | NaOH | 4.29 mmol, 0.17 g | [OH-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 2-{1-[2-(4-fluoro-phenyl)-ethyl]-5-methyl-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid | 0.21 g, 70% yield | FC1=CC=C(C=C1)CCN1N=C(C=C1C)C=1SC(=C(N1)C)C(=O)O | C17H16FN3O2S
